US06455507B1
a. 4-Chloro-2-nitro-5-methylthioaniline
Sodium methanethiolate (4.06 g, 58.0 mmol, Aldrich) was suspended in 80 ml dimethylformamide. 4,5-Dichloro-2-nitroaniline (10.0 g, 48.3 mmol, Aldrich) was added portionwise. Additional sodium methanethiolate (4.38 g, 62.5 mmol) was added over several h until starting material was consumed. The reaction mixture was poured into water (400 ml) and the resulting precipitate was collected by filtration and dried to give 9.05 g (41.4 mmol, 86% yield) of the title compound. 1H NMR (CDCl3) δ8.15 (s, 1H), 6.44 (s, 1H), 2.52 (s, 3H).

reactant | Sodium methanethiolate | 58.0 mmol, 4.06 g | C[S-].[Na+]
reactant | 4,5-Dichloro-2-nitroaniline | 48.3 mmol, 10.0 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | sodium methanethiolate | 62.5 mmol, 4.38 g | C[S-].[Na+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-2-nitro-5-methylthioaniline | 41.4 mmol, 9.05 g, 86% yield | ClC1=CC(=C(N)C=C1SC)[N+](=O)[O-] | C7H7ClN2O2S
